datasets/10k__Tet_Int.csv
SMILES Labelled
"[O:10]([K])C(C)C([H])C([H])C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C([H])C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC 21=20;20,10=10"
"[O-:21][C:20]1([H])[O+:10]([Na])C(C)C([H])=C1C>>[O:10]([Na])C(C)/C([H])=C([C:20]([H])=[O:21])/C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][NH+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)[H])CC 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])=C([H])C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])/C([H])=C([H])\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
